US07135466B2
N-{2-[4-(Bromomethyl)phenyl]acetyl}-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 4-(bromomethyl)benzoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 2-[4-(bromomethyl)phenyl]ethanoyl isothiocyanate was prepared using the resultant 4-(bromomethyl)-1-benzenecarbonyl chloride as a starting compound according to the description of the literature. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. A solution of 2-[4-(bromomethyl)phenyl]ethanoyl isothiocyanate in ethanol (1 ml) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (50 mg, yield 52%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(bromomethyl)benzoic acid | 80 mg | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | 4-(bromomethyl)-1-benzenecarbonyl chloride | BrCC1=CC=C(C=C1)C(=O)Cl | C8H6BrClO
reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
reactant | 2-[4-(bromomethyl)phenyl]ethanoyl isothiocyanate | BrCC1=CC=C(C=C1)CC(=O)N=C=S | C10H8BrNOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{2-[4-(Bromomethyl)phenyl]acetyl}-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}thiourea | 50 mg, yield 52% | BrCC1=CC=C(C=C1)CC(=O)NC(=S)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C27H24BrN3O4S
